US06586617B1
Synthesis of 4′-Chloro-2′-hydroxymethyl-N-methyl-p-toluenesulfonanilide (Compound No. 65)
To a solution of 5-chloro-N-methyl-N-(p-toluenesulfonyl)anthranilic acid (5.20 g (15.3 mmol)) in chloroform (20.0 ml), thionyl chloride (2.00 g (27.4 mmol)) was added with stirring at room temperature. The resulting mixture was heated at 50° C. for 2 hours with stirring and then concentrated under reduced pressure. The residue was dissolved in acetonitrile (20.0 ml) and added dropwise to a solution of sodium borohydride (90%, 1.30 g (30.9 mmol) in water (20.0 ml) under cooling with ice. After one hour's stirring at room temperature, water (100.0 ml) was added to the reaction mixture and the resulting mixture was extracted with ethyl acetate. The extract was washed with dilute hydrochloric acid, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 4.40 g (88%) of the title compound as white crystals.

reactant | 5-chloro-N-methyl-N-(p-toluenesulfonyl)anthranilic acid | 15.3 mmol, 5.20 g | ClC1=CC=C(C(C(=O)O)=C1)N(S(=O)(=O)C1=CC=C(C=C1)C)C | C15H14ClNO4S
reactant | thionyl chloride | 27.4 mmol, 2.00 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 20.0 ml | C(Cl)(Cl)Cl | CHCl3
product | 4′-Chloro-2′-hydroxymethyl-N-methyl-p-toluenesulfonanilide | 4.40 g, 88% | ClC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1)CO | C15H16ClNO3S
